US05236936
2,6-Dimethyl-3-(4-ethoxycarbonylphenyl)-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine (50 mg) was added to a mixture of 1M sodium hydroxide solution (0.2 ml) and ethanol (2 ml), and the mixture was heated at reflux for 1 hour. Additional 1M sodium hydroxide solution (0.1 ml) was added and the mixture was heated at reflux for a further 30 minutes. Volatile material was removed by evaporation. The residue was dissolved in water (10 ml) and the mixture was extracted with dichloromethane. The aqueous phase was separated and adjusted to pH 5 with 1M citric acid solution. The resultant precipitate was collected by filtration to give 3-(4-carboxyphenyl)-2,6-dimethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine as a solid, m.p. 207°-210° C. (decomposition); NMR (d6 -DMSO): 2.1(s, 3H), 2.44(s, 3H), 5.13(s, 2H), 6.94(s, 1H), 7.03(d, 2H), 7.15(d, 2H), 7.38(d, 2H), 7.55(m, 4H), 9.8(d, 2H); mass spectrum (+ve FAB, methanol/nitrobenzyl alcohol): 478(M+H)+ ; microanalysis, found: C, 66.6, H, 5.0; N, 13.9%; C28H23N5O3.1.5H2O requires: C, 66.7; H, 5.1; N, 13.9%.

reactant | 2,6-Dimethyl-3-(4-ethoxycarbonylphenyl)-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine | 50 mg | CC1=NC(=CC(=C1C1=CC=C(C=C1)C(=O)OCC)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C | C30H27N5O3
reactant | sodium hydroxide | 1M, 0.2 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1M, 0.1 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-(4-carboxyphenyl)-2,6-dimethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]pyridine | C(=O)(O)C1=CC=C(C=C1)C=1C(=NC(=CC1OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C)C | C28H23N5O3
